### PR TITLE
feat(SimpleGraph): card of common neighbors equals card of triangles containing edge

### PR DESCRIPTION
**Pull request by zeekmartin**
Adds `SimpleGraph.card_commonNeighbors_eq_card_triangles_containing_edge` 
to `Mathlib/Combinatorics/SimpleGraph/Clique.lean`.

For adjacent vertices `u v` in a finite simple graph, establishes the bijection 
between common neighbors and 3-cliques containing the edge `{u, v}`:
```lean
theorem card_commonNeighbors_eq_card_triangles_containing_edge
    {u v : α} (huv : G.Adj u v) :
    (G.commonNeighbors u v).toFinset.card =
      ((G.cliqueFinset 3).filter fun s => {u, v} ⊆ s).card
```

This connects `commonNeighbors` (defined in `Basic.lean`) with `cliqueFinset` — 
a gap not previously covered in `Clique.lean`.

**AI disclosure**: Claude (Anthropic) was used as an assistant during the development of this proof. It helped with the initial proof structure and tactic suggestions. The proof was reviewed and validated step by step by the author, who can vouch for all the content. The mathematical idea originates from the author's prior Lean 4 work on spectral graph theory (github.com/zeekmartin/topostability-lean4).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -1006,4 +1006,66 @@ theorem mem_indepSetFinset_iff : s ∈ G.indepSetFinset n ↔ G.IsNIndepSet n s
...
+      rw [Finset.inter_eq_right.mpr hcontains, h3, huv2] at this; omega
+    obtain ⟨w, hw⟩ := Finset.card_eq_one.mp hsdiff
+    have hwmem : w ∈ ({a, b, c} : Finset α) :=
+      (Finset.mem_sdiff.mp (hw ▸ Finset.mem_singleton_self w)).1
+    have hwnuv : w ∉ ({u, v} : Finset α) :=
+      (Finset.mem_sdiff.mp (hw ▸ Finset.mem_singleton_self w)).2
+    have huw : u ≠ w := fun h => hwnuv (by simp [h])
+    have hvw : v ≠ w := fun h => hwnuv (by simp [h])
+    have hcliq : G.IsClique ({a, b, c} : Finset α) := by
+      rw [isClique_iff]; intro x hx y hy hne
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```suggestion
      rw [isClique_iff]
      intro x hx y hy hne
```
or
```suggestion
      refine G.isClique_iff.mpr fun x hx y hy hne ↦ ?_
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -1006,4 +1006,66 @@ theorem mem_indepSetFinset_iff : s ∈ G.indepSetFinset n ↔ G.IsNIndepSet n s
...
+      simp only [Finset.mem_coe, Finset.mem_insert, Finset.mem_singleton] at hx hy
+      rcases hx with rfl | rfl | rfl <;> rcases hy with rfl | rfl | rfl <;>
+        first | exact absurd rfl hne | exact hab | exact hab.symm
+              | exact hac | exact hac.symm | exact hbc | exact hbc.symm
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Haven't tested it but I'd guess something like this would work:
```suggestion
      grind [Adj.symm]
```

Comment (zeekmartin) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: > Haven't tested it but I'd guess something like this would work:

Thanks for the suggestion! I'll keep the explicit `rcases` for now since it's tested and compiles cleanly. Happy to revisit if you'd like to test `grind [Adj.symm]` on your end.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: My suggestion was for you to test it, and in general try using `grind` here
